US09233098B2
1. Preparation of methyl 2-(2-methyl-1H-indol-3-yl)acetate
2-(2-Methyl-1H-indol-3-yl)acetic acid (11.7 g, 61.84 mmol) was weighed and added into 100 mL methanol. Concentrated hydrochloric acid 0.7 mL was added dropwise. It was reacted at 70° C. for 4 hours, cooled, rotate evaporated to dryness, extracted with ethyl acetate, washed twice with NaHCO3 aqueous solution. The organic phase was dried and rotate evaporated to dryness to obtain a red brown solid 11.4 g, at a yield of 90.7%.

reactant | 2-(2-Methyl-1H-indol-3-yl)acetic acid | 61.84 mmol, 11.7 g | CC=1NC2=CC=CC=C2C1CC(=O)O | C11H11NO2
reactant | hydrochloric acid | 0.7 mL | Cl | ClH
reactant | methanol | 100 mL | CO | CH4O
product | methyl 2-(2-methyl-1H-indol-3-yl)acetate | 11.4 g, yield of 90.7% | CC=1NC2=CC=CC=C2C1CC(=O)OC | C12H13NO2
